US09238640B2
Preparation of 7-(2-(Benzyloxy)ethoxy)-2-(2,6-dimethylpyridin-4-yl)-5-methoxyquinazolin-4(3H)-one
To a solution of 2-benzyloxy-ethanol (1.15 g, 10.0 mmol) in dimethyl sulfoxide (4 mL), sodium hydride (60% suspension in mineral oil, 0.20 g, 5.0 mmol) was added in portions and the reaction mixture was stirred at room temperature for 20 minutes. To this reaction mixture was added 2-(2,6-dimethyl-pyridin-4-yl)-7-fluoro-5-methoxy-3H-quinazolin-4-one (0.30 g, 1.0 mmol) and the reaction mixture was stirred at 85° C. for 24 hours. Water was added, and the mixture was acidified to pH approximately 4-5 with acetic acid and the precipitated solid was filtered to give crude product, which was purified by column chromatography (silica gel 230-400 mesh; eluting with hexane and ethyl acetate 10:1) to obtain the title compound as a white solid. Yield: 0.140 g (32.4%). MP 178-180° C. MS (ES) m/z: 432.18 (M++1). 1H NMR (400 MHz, CDCl3): δ 10.90 (s, 1H), 7.69 (s, 2H), 7.29-7.40 (m, 5H), 6.85 (d, J=2.0 Hz, 1H), 6.59 (d, J=2.0 Hz, 1H), 4.66 (s, 2H), 4.29 (m, 2H), 3.97 (s, 3H), 3.89 (m, 2H), 2.66 (s, 6H).

reactant | 2-benzyloxy-ethanol | 10.0 mmol, 1.15 g | C(C1=CC=CC=C1)OCCO | C9H12O2
reactant | sodium hydride | 5.0 mmol, 0.20 g | [H-].[Na+]
reactant | 2-(2,6-dimethyl-pyridin-4-yl)-7-fluoro-5-methoxy-3H-quinazolin-4-one | 1.0 mmol, 0.30 g | CC1=NC(=CC(=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)F)C | C16H14FN3O2
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 4 mL | CS(=O)C | C2H6OS
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-(2-(Benzyloxy)ethoxy)-2-(2,6-dimethylpyridin-4-yl)-5-methoxyquinazolin-4(3H)-one | C(C1=CC=CC=C1)OCCOC1=CC(=C2C(NC(=NC2=C1)C1=CC(=NC(=C1)C)C)=O)OC | C25H25N3O4
